US04943310
7.75 g (55.1 mmol) Benzoyl chloride was added dropwise to 10.00 g (54.3 mmol) ethyl 3,5-dioxocyclohexanecarboxylate, dissolved in 100 ml dichloromethane and 15 ml triethylamine, at 10° C. The mixture was stirred for 3 hours at room temperature, poured into ice, separated, the organic phase shaken with 1N hydrochloric acid, saturated sodium bicarbonate and water, dried (magnesium sulphate) and concentrated. The ethyl 3-benzoyloxy-5-oxo-3-cyclohexenecarboxylate, so obtained, was dissolved in 75 ml acetonitrile and after addition of 15 ml triethylamine and 1.5 ml 2-hydroxyisobutyronitrile, was stirred at 24 hours at room temperature. The mixture was taken up in 100 ml diethyl ether and extracted with 100 ml 2N hydrochloric acid and then twice with, each time, 50 ml 5% potassium carbonate solution. After covering the aqueous phase with a layer of 100 ml diethyl ether, it was acidified with 4N hydrochloric acid until it was pH 3, separated, washed with water, dried (magnesium sulphate) and evaporated on a rotary evaporator. It was purified by recrystallising from hexane.

reactant | Benzoyl chloride | 55.1 mmol, 7.75 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl 3,5-dioxocyclohexanecarboxylate | 54.3 mmol, 10.00 g | O=C1CC(CC(C1)=O)C(=O)OCC | C9H12O4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | ethyl 3-benzoyloxy-5-oxo-3-cyclohexenecarboxylate | C(C1=CC=CC=C1)(=O)OC=1CC(CC(C1)=O)C(=O)OCC | C16H16O5
